US06727264B1
N-(3-{1-[4-(3,4-DIMETHYLPHENYL)-4-OXOBUTYL]-4-PIPERIDINYL}PHENYL)-N,2-DIMETHYLPROPANAMIDE:
Prepared by Procedure T and Scheme AD using N-(3-{1-[4-(3,4-dimethylphenyl)-4-oxobutyl]-4-piperidinyl}phenyl)-2-methylpropanamide and methyl iodide: 1H NMR (400 MHz, CDCl3) δ 7.76 (s, 1H), 7.72 (dd, 1H, J=1.8, 7.7 Hz), 7.33 (t, 1H, J=8.8 Hz), 7.22 (d, 1H, J=7.8 Hz), 7.18 (d, 1H, J=8.8 Hz), 7.01 (m, 2H), 3.24 (s, 3H), 3.10 (d, 1H, J=10.6 Hz), 3.00 (t, 1H, J=7.6 Hz), 2.49 (m, 4H), 2.33 (s, 6H), 2.11 (m, 3H), 1.99 (m, 1H), 1.79 (m, 4H), 1.26 (t, 2H, J=7.6 Hz), 1.02 (d, 6H, J=7.6 Hz); ESMS m/e: 435.2 (M+H)+.

reactant | N-(3-{1-[4-(3,4-dimethylphenyl)-4-oxobutyl]-4-piperidinyl}phenyl)-2-methylpropanamide | CC=1C=C(C=CC1C)C(CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)=O | C27H36N2O2
reactant | methyl iodide | CI | CH3I
product | N-(3-{1-[4-(3,4-DIMETHYLPHENYL)-4-OXOBUTYL]-4-PIPERIDINYL}PHENYL)-N,2-DIMETHYLPROPANAMIDE | CC=1C=C(C=CC1C)C(CCCN1CCC(CC1)C=1C=C(C=CC1)N(C(C(C)C)=O)C)=O | C28H38N2O2
